US05015640
starting from propyl 5,7-dihydro-6H-dibenz[c,e]-azepine-6-carboximidate and benzoyl chloride, there is obtained propyl N-benzoyl-5,7-dihydro-6H-dibenz[c,e]-azepine-6-carboximidate as a resin, mass spectrum m/e: M+ 384 (7), 341 (13), 194 (100), 179 (23), 105 (59);

reactant | propyl 5,7-dihydro-6H-dibenz[c,e]-azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCCC)=N | C18H20N2O
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | propyl N-benzoyl-5,7-dihydro-6H-dibenz[c,e]-azepine-6-carboximidate | C(C1=CC=CC=C1)(=O)N=C(OCCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C25H24N2O2
